US09284308B2
(4-Chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(1-methyl-1H-imidazol-5-yl)methanone
To a flask containing (4-chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(1-methyl-1H-imidazol-5-yl)methanol (2.3 g, 4.98 mmol, Intermediate 80: step a) was added 1,4-dioxane (80 mL) to give a suspension at room temperature. The flask was fitted with a reflux condenser and heated briefly to 50° C. which resulted in a homogeneous solution. Then, activated manganese dioxide (1.73 g, 19.9 mmol) was introduced and the temperature was raised to 80° C. After 65 minutes, the reaction mixture was filtered through Celite® and rinsed with warm THF. The effluent was concentrated to give the title compound as a white solid.

reactant | (4-chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(1-methyl-1H-imidazol-5-yl)methanol | ClC1=C(C(=NC2=CC=C(C=C12)C(O)C1=CN=CN1C)OC)CC1=CC=C(C=C1)C(F)(F)F | C23H19ClF3N3O2
catalyst | manganese dioxide | 19.9 mmol, 1.73 g | [O-2].[O-2].[Mn+4]
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | (4-Chloro-2-methoxy-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(1-methyl-1H-imidazol-5-yl)methanone | ClC1=C(C(=NC2=CC=C(C=C12)C(=O)C1=CN=CN1C)OC)CC1=CC=C(C=C1)C(F)(F)F | C23H17ClF3N3O2
